US05712268
Benzyl (1S,5R)-7-oxo-2,6-diazabicyclo[3.2.0]heptane-2-carboxylate
135 g (0.34 mol) of benzyl (1S,5R)-6-(3,4-dimethoxy- benzyl)-7-oxo-2,6-diazabicyclo[3.2.0]heptane-2-carboxylate were placed in 1.5 liters of acetonitrile. Thereto there was added a solution of 77 g (0.44 mol) of dipotassium hydrogen phosphate and 128 g (0.47 mol) of potassium peroxodisulphate in 660 ml of water and the mixture was heated to 100° C. The reaction time amounted to 2.5 hours. During this time the pH value of the mixture becomes acidic. This pH was held at about 5 by the portionwise addition of further dipotasium hydrogen phosphate. After completion of the reaction the acetonitrile was removed on a rotary evaporator and the aqueous residue was extracted with 3×250 ml of methylene chloride. The combined organic phases were washed once each time with 500 ml of 3% sodium hydrogen carbonate solution and 750 ml of saturated, aqueous sodium chloride solution and subsequently dried over magnesium sulphate. After concentration there was obtained a brown oil which was purified by chromatography [silica gel, 0.063-0.2 mm particle size, elution with 1) ethyl acetate:hexane =2:1; 2) ethyl acetate].

reactant | benzyl (1S,5R)-6-(3,4-dimethoxy- benzyl)-7-oxo-2,6-diazabicyclo[3.2.0]heptane-2-carboxylate | 0.34 mol, 135 g | COC=1C=C(CN2[C@@H]3CCN([C@@H]3C2=O)C(=O)OCC2=CC=CC=C2)C=CC1OC | C22H24N2O5
reactant | dipotassium hydrogen phosphate | 0.44 mol, 77 g | P(=O)(O)([O-])[O-].[K+].[K+]
reactant | potassium | 0.47 mol, 128 g | [K] | K
solvent | acetonitrile | 1.5 liters | C(C)#N | C2H3N
solvent | water | 660 ml | O | H2O
product | Benzyl (1S,5R)-7-oxo-2,6-diazabicyclo[3.2.0]heptane-2-carboxylate | O=C1N[C@@H]2CCN([C@H]12)C(=O)OCC1=CC=CC=C1 | C13H14N2O3
